US07932272B2
2-Amino-6-methoxymethyl-N-(4-(pyridin-2-ylmethoxy)-benzyl)-nicotinamide
To a solution of 2-amino-6-methoxymethyl-nicotinic acid described in Preparation Example A-11 (100 mg, 0.55 mmol) and 4-(pyridin-2-ylmethoxy)-benzylamine described in Preparation Example 171 (170 mg, 0.82 mmol) in N,N-dimethylformamide (5 mL) were added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (290 mg, 0.66 mmol) and triethylamine (0.23 mL, 1.7 mmol), and the solution was stirred overnight at room temperature. Ethyl acetate and water were added to the reaction solution for extraction, the organic layer was washed with brine, then, the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=1:2), and the title compound (150 mg, 0.40 mmol, 73%) was obtained as a colorless solid.

reactant | 2-amino-6-methoxymethyl-nicotinic acid | NC1=C(C(=O)O)C=CC(=N1)COC | C8H10N2O3
reactant | 4-(pyridin-2-ylmethoxy)-benzylamine | N1=C(C=CC=C1)COC1=CC=C(CN)C=C1 | C13H14N2O
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.66 mmol, 290 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 1.7 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-6-methoxymethyl-N-(4-(pyridin-2-ylmethoxy)-benzyl)-nicotinamide | 0.40 mmol, 150 mg, 73% | NC1=C(C(=O)NCC2=CC=C(C=C2)OCC2=NC=CC=C2)C=CC(=N1)COC | C21H22N4O3
